Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine
 
Attending: ___
 
Chief Complaint:
elective admission for antibody mediated tranplanted kidney 
rejection
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ black man with HCV genotype 1a (no 
cirrhosis per ___ fibroscan score of 5.6), hypertention s/p 
kidney transplant for polycystic kidney disease ___ (on 
sirolimus and mycophenolate, baseline Cr 1.5-1.7) who is 
admitted from his ___ for 
treatment of antibody mediated humoral chronic kidney rejection.
.
He received a standard criteria donor kidney transplant from a 
CDC high risk donor on ___.  He had delayed graft function 
initially but subsequently has had reasonable renal allograft 
function. However patient was noted to have rising cr from 1.5 
in ___ to 1.9 in ___.  For evalaluation he underwent 
kidney biopsy ___, showing antibody mediated chronic rejection. 
Patient is on Sirolimus, Celcept as immunosupressive. He reports 
being very compliant with all his medications.
.
He denies any symptoms. He denies any fevers, chills, night 
sweats, back pain, dysuria, hematuria.  He reports keeping good 
po intake and had been drinking normally.  
 
Past Medical History:
- Hepatitis C virus, genotype 1a, viral load 700,000 
international
units per mL. No cirrohisis per ___ fibroscan score of 5.6  
He attempted.  s/p Peginterferon monotherapy ___ with no 
response. He has never experienced complications of liver 
disease including
jaundice, encephalopathy, ascites, and portal hypertensive
bleeding.
- Polycystic kidney disease status post kidney transplant in
___. Received a standard criteria donor kidney 
transplant from a CDC high risk donor on ___.  He had 
delayed graft function initially but subsequently has had 
reasonable renal allograft function.
- Hx of Recurrent peritonitis while he was on peritoneal 
dialysis
- Osteomyelitis, ___
- Epidural abscess ___.  
- Endocarditis ___.
- Hypertention
- Hyperparathyroidism status post subtotal parathyroidectomy
revision ___, thyroid lobectomy.
- Gout.
- Carotid stenosis.
- Restless legs syndrome.
- Depression.
- Chronic pain syndrome.
 
Social History:
___
Family History:
Mother - diagnosed with DM in her ___
Father - died of drugs and alcohol and pancreatic cancer at ___
3 of 4 or ___ healthy brother
2 children (estranged) - ___nd healthy ___ yo
 
Physical Exam:
Admission Physical Exam:
Vitals: 97.7  158/92  89  100%RA
GENERAL: Appears well, no acute distress, lying in bed 
comfortably  
HEENT: Sclera an-icteric. MMM 
NECK: Supple with low JVP  
CARDIAC: RRR, S1 S2 clear and of good quality without murmurs, 
rubs or gallops. No S3 or S4 appreciated.  
LUNGS: Resp were unlabored, no accessory muscle use, moving air 
well and symmetrically. CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: +Bs, soft nontender, non-distended 
EXTREMITIES: Warm and well perfused, No edema. 
.
Discharge Physical Exam:
Vitals: 98.2  139/56  96  98%RA
GENERAL: appears well, NAD  
HEENT: non-icteric. MMM, OP clear
NECK: Supple, no JVD
CARDIAC: RRR, no m/r/g
LUNGS: CTAB
ABDOMEN: +BS, soft, non-tender, non-distended
EXTREMITIES: WWP, No edema.   
NEURO: alert and oriented x3.  No focal findings. 

 
Pertinent Results:
Pertinent Labs:
___ 01:10PM BLOOD WBC-2.6* RBC-5.29 Hgb-15.6 Hct-46.6 
MCV-88 MCH-29.4 MCHC-33.5 RDW-14.1 Plt ___
___ 07:10AM BLOOD WBC-4.9# RBC-5.43 Hgb-16.3 Hct-48.1 
MCV-89 MCH-30.0 MCHC-33.9 RDW-13.9 Plt ___
___ 07:50AM BLOOD WBC-6.9 RBC-4.95 Hgb-14.5 Hct-43.6 MCV-88 
MCH-29.3 MCHC-33.3 RDW-13.8 Plt ___
___ 01:10PM BLOOD Neuts-79* Bands-0 Lymphs-11* Monos-8 
Eos-2 Baso-0 ___ Myelos-0
___ 01:10PM BLOOD ___ PTT-38.1* ___
___ 01:10PM BLOOD CD19%-20.5 CD19Abs-59 CD20%-19.6 
CD20Abs-56
___ 01:10PM BLOOD Glucose-73 UreaN-20 Creat-2.1* Na-136 
K-5.5* Cl-102 HCO3-25 AnGap-15
___ 01:10PM BLOOD ALT-34 AST-36 AlkPhos-183* TotBili-0.5
___ 01:10PM BLOOD Albumin-4.6 Calcium-9.6 Phos-2.7 Mg-1.7
___ 06:20AM BLOOD TSH-0.12*
___ 12:50PM BLOOD PTH-187*
___ 07:50AM BLOOD rapmycn-13.3
___ 06:20AM BLOOD tacroFK-5.1
___ 07:50AM BLOOD tacroFK-4.2*
.
___ 1:10 pm IMMUNOLOGY
                            **FINAL REPORT ___

   HCV VIRAL LOAD (Final ___: 
      8,854,733 IU/mL. 
.
Discharge Labs:
___ 06:00AM BLOOD WBC-6.1 RBC-4.94 Hgb-14.4 Hct-43.4 MCV-88 
MCH-29.1 MCHC-33.1 RDW-14.1 Plt ___
___ 01:00PM BLOOD ___ PTT-150* ___
___ 03:12PM BLOOD ___ PTT-135.2* ___
___ 06:10AM BLOOD ___ PTT-68.4* ___
___ 03:12PM BLOOD Thrombn-150*
___ 06:10AM BLOOD Glucose-107* UreaN-35* Creat-1.7* Na-134 
K-4.4 Cl-104 HCO3-23 AnGap-___ black man with HCV genotype 1a (no cirrhosis per 
___ fibroscan score of 5.6), hypertension, s/p kidney 
transplant for polycystic kidney disease ___ who was 
admitted from ___ for subacute renal 
failure thought to be secondary to antibody mediated humoral 
chronic kidney rejection. 
.
# Subacute Ab-mediated Allograft kidney Rejection: Patient had 
received a standard criteria donor kidney transplant from a ___ 
high risk donor on ___.  Given rising Cr he had renal 
biopsy on ___ which based on staining showed antibody 
mediated allograft chronic kidney rejection. On admission his 
sirolimus was replaced with tacrolimus and he was given three 
days of pulse steroids with IV solumederol and IVIg and was 
subsequently started on prednisone 20mg daily. His Cr was noted 
to be around 1.7 on discharge.  His Tacro level. Patient was 
started on pepsid for GI prophylaxis and continued on Bactrim SS 
for PCP ___. He will f/u with his nephrologist who will 
decide on further treatment with Rituximab. Patient needs 
biweekly tacro levels checked with results faxed to Dr. 
___ to adjust his tacrolimus dose. 
.
# Elevated PTT: One day prior to discharge patient's PTT was 
elevated >150 with elevated thrombin time suggesting presence of 
heparin as the cause.  His SC heparin was discontinued and his 
PTT down trending toward normal level.  He should have repeat 
Coag tested as outpatient to document normalization of his PTT.
.
# Flu Prophylaxis: Patient was discharged on tamiflu prophylaxis 
given flu outbreak at ___ facility.  Tamiflu 
may be discontinued when flu outbreak resolves.  
.
# Hyperkalemia: On admission he was found to have hyperkalemia 
likely secondary to subacute renal failure. Hyperkalemia 
resolved after starting patient on low potassium diet. 
.
# Hypercalcemia, hypophosphatemia, elevated PTH: likely 
tertiary. Ca and Phos were normal 
.
# Hepatitis C: No cirrhosis per ___ fibroscan score of 5.6. 
LFTs at baseline.  HCV viral load of 8.8 millions.
.
# Hypertension: Blood pressure was stable. Lisinopril was held 
in the setting of renal failure and hyperkalemia.  He should be 
restarted on lisinopril or other agent once his recover from his 
subacute kidney injury. 
. 
# Osteoporosis. His last bone densitometry on ___ showed 
osteoporosis and hence is on alendronate. He is on cinacalcet 
and vitamin D supplement. He was continued on weekly alendronate 
, vitamin D and cinacalcet
.
# Dyslipidemia:  His last LDL was 152 on ___.  Not on any 
meds.
.
# Mechanical Fall: Patient had mechanical fall with blunt trauma 
to his back on ___. Plain films of his spine were not 
remarkable for any acute traumatic findings. There was no focal 
neurologic signs on exam. His pain was treated with PRN 
acetaminophen and oxycodone in addition to his home dose of MS 
___. He was discharged on his MS ___. 
.
# Chronic Pain: Chronic shoulder pain. He was continued on his 
usual dose of MS ___.
.
Transitions of Care:
- Please have patient follow up with outpatient nephrologist. 
- Please check Bi-weekly tacro levels.
- Please recheck patient's coagulation test: PTT 
- Patient should continue tamiflu prophylaxis until resolution 
of flu outbreak your facility 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 35 mg PO QSUN 
2. Amitriptyline 100 mg PO HS 
3. Cinacalcet 30 mg PO DAILY 
4. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 
5. Lisinopril 5 mg PO DAILY 
6. Morphine SR (MS ___ 10 mg PO Q12H 
7. Mycophenolate Mofetil 500 mg PO BID 
8. Sirolimus 4 mg PO DAILY 
Daily dose to be administered at 6am 
9. Sodium Bicarbonate 1300 mg PO BID 
10. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 

 
Discharge Medications:
1. Alendronate Sodium 35 mg PO QSUN 
2. Amitriptyline 100 mg PO HS 
3. Cinacalcet 30 mg PO DAILY 
4. Morphine SR (MS ___ 10 mg PO Q12H 
5. Mycophenolate Mofetil 1000 mg PO BID 
6. Sodium Bicarbonate 1300 mg PO BID 
7. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
8. Famotidine 20 mg PO Q24H 
9. PredniSONE 20 mg PO DAILY 
10. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 
11. Oseltamivir 75 mg PO Q24H 
untill instructed otherwise by the transplant team.  
12. Tacrolimus 5 mg PO Q12H 
13. Outpatient Lab Work
Please check Tacro levels every ___ and ___ and page 
results to outpatient Nephrologist, Dr. ___. 
___

 
14. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Antibody mediated humoral chronic kidney rejection
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, you were noted to have chronic rejection on 
your recent kidney biopsy therefore you were admitted to receive 
treatment with steriods and other immunosuppressive medcaitions. 
You kidney function remained stable.  During your stay here you 
slipped and fell in the bathroom and had some increase in your 
back pain afterwards for which you were given pain medicine. 
X-ray of your spine did not show and spinal damage from the 
fall. You will be schduled a follow up appointment with you 
nephrologist for further treatment.  
 
Followup Instructions:
___